US05296602
1-Hydroxy-2-nitro-4,5,6-trimethoxybenzene (4.58 g, 0.02 mol) was treated with diazomethane (prepared from 1-methyl-3-nitro-1-nitrosoguanidine, 5.88 g, 0.04 mol) in ether (300 ml) for 4 hours at room temperature. The reaction mixture was evaporated in vacuo to dryness, and the residue was chromatographed on a silica gel column (3×40 cm) using hexane/ethyl acetate (9:1) as the eluent. 1-Nitro-2,3,4,5-tetramethoxybenzene was obtained as syrup, 3.45 g (71%). 1NMR (CDCl3): δ3.80, 3.94, 3.96, and 3.98 (each 3H, s, 4×OMe), 7.18 (1H, s, H-6). Analyses: Calculated for C10H13NO6 : C, 49.38; H, 5.39; N, 5.76. Found: C, 49.14; H, 5.53; N, 5.75.

reactant | 1-Hydroxy-2-nitro-4,5,6-trimethoxybenzene | 0.02 mol, 4.58 g | OC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C9H11NO6
reactant | diazomethane | 0.04 mol, 5.88 g | [N+](=[N-])=C | CH2N2
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-Nitro-2,3,4,5-tetramethoxybenzene | [N+](=O)([O-])C1=C(C(=C(C(=C1)OC)OC)OC)OC | C10H13NO6
